US08242129B2
5-[6-(2-Chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]thiophene-2-carboxylic acid
(E)-5-(3-(2-chlorophenyl)acryloyl)thiophene-2-carboxylic acid (1.0 g, 3.4 mmol), urea (1.0 g, 16.6 mmol), and sodium t-butoxide (1.6 g, 16.6 mmol) were suspended in 17 mL of 1,4-dioxane. The reaction mixture was stirred overnight at 80° C. After cooling, the suspension was neutralized by the addition of 1M HCl. The precipitate was filtered, washed with water and air dried to give 740 mg of product. 1H NMR (400 MHz, d6-DMSO): δ 7.89 (s, 1H), 7.63 (m, 2H), 7.56 (t, 1H), 7.50 (t, 1H), 7.24 (d, 1H), 7.07 (s, 1H); MS (EI) for C15H9ClN2O3S: 332 (MH+).

reactant | (E)-5-(3-(2-chlorophenyl)acryloyl)thiophene-2-carboxylic acid | 3.4 mmol, 1.0 g | ClC1=C(C=CC=C1)/C=C/C(=O)C1=CC=C(S1)C(=O)O | C14H9ClO3S
reactant | urea | 16.6 mmol, 1.0 g | NC(=O)N | CH4N2O
reactant | sodium t-butoxide | 16.6 mmol, 1.6 g | CC(C)([O-])C.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | 1,4-dioxane | 17 mL | O1CCOCC1 | C4H8O2
product | 5-[6-(2-Chlorophenyl)-2-oxo-1,2-dihydropyrimidin-4-yl]thiophene-2-carboxylic acid | 740 mg | ClC1=C(C=CC=C1)C1=CC(=NC(N1)=O)C1=CC=C(S1)C(=O)O | C15H9ClN2O3S
